US07229990B2
(a). Ethyl 2-methylthio-4-(3-methoxyphenyl)-6-methyl-1.4-dihydropyrimidine-5-carboxylate
A mixture of S-methylisothiourea sulfate (13.9 g), 3-methoxybenzaldehyde (7.5 g), ethyl acetoacetate (6.5 g) and sodium hydrogenocarbonate (21 g) in DMF (200 ml) was stirred at 70° C. for 18 h. The reaction mixture was cooled to room temperature, diluted with diethylether and washed with H2O and sat. aq. NaCl. The title compound was purified by chromatography on silica gel with hept/EtOAc=3/2 (v/v) as eluent.

reactant | S-methylisothiourea sulfate | 13.9 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | 3-methoxybenzaldehyde | 7.5 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | ethyl acetoacetate | 6.5 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium | 21 g | [Na] | Na
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | diethylether | C(C)OCC | C4H10O
product | Ethyl 2-methylthio-4-(3-methoxyphenyl)-6-methyl-1.4-dihydropyrimidine-5-carboxylate | CSC=1NC(=C(C(N1)C1=CC(=CC=C1)OC)C(=O)OCC)C | C16H20N2O3S
